US05412137
To a suspension of 6.8 g of lithium aluminum hydride in 200 ml of anhydrous ether are added 26.2 g of ethyl 4-(3-pentyloxyphenoxy)butyrate dissolved in 100 ml of anhydrous ether. Addition is carried out at a rate which maintains reflux of the solvent. After 30 minutes, the mixture is cooled in an ice bath and quenched with water. 3N HCl is added; and the organic layer is separated, dried over magnesium sulfate, filtered, and concentrated under vacuum to yield 4-[3-(pentyloxy)phenoxy]butanol.

reactant | lithium aluminum hydride | 6.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(3-pentyloxyphenoxy)butyrate | 26.2 g | C(CCCC)OC=1C=C(OCCCC(=O)OCC)C=CC1 | C17H26O4
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-[3-(pentyloxy)phenoxy]butanol | C(CCCC)OC=1C=C(OCCCCO)C=CC1 | C15H24O3
